Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CKD Stage 5, needs dialysis access
 
Major Surgical or Invasive Procedure:
___:  Left brachiocephalic AV fistula.

 
History of Present Illness:
___ gentleman with chronic kidney disease (Stage 5) 
secondary to oxalate nephropathy, diabetic nephropathy and 
hypertensive nephropathy.  He had a left radiocephalic AV 
fistula previously created in ___.  That fistula has 
recently thrombosed and was not salvageable.  He presents today 
for elective fistula creation.
 
Past Medical History:
CKD Stage 5, hypertension, cardiomyopathy with AFib on warfarin, 
type 2 diabetes, hyperlipidemia, nonalcoholic steatohepatitis, 
___; and cholelithiasis.
.
Past Surgical History:  Right shoulder surgery and right knee 
surgery, left radiocephalic fistula (failed).
 
Social History:
___
Family History:
___. 
 
Physical Exam:
24 HR Data (last updated ___ @ 130)
    Temp: 98.3 (Tm 98.3), BP: 121/67, HR: 77, RR: 18, O2 sat:
94%, O2 delivery: 2L

Fluid Balance (last updated ___ @ 138)
  Last 8 hours  Total cumulative 500ml
    IN: Total 500ml, IV Amt Infused 500ml
    OUT:  Total 0ml, Urine Amt 0ml
  Last 24 hours  Total cumulative 500ml
    IN: Total 500ml, IV Amt Infused 500ml
    OUT:  Total 0ml, Urine Amt 0ml

GENERAL: [x]NAD  [x]A/O x 3  
CARDIAC: [x]known afib rhythm 
LUNGS: [x]CTA b/l  [x]no respiratory distress  
ABDOMEN: [x]soft  [x]Nontender  [x]nondistended  [x]no 
rebound/guarding 
WOUND: [x]CD&I  [x]no erythema/induration  
EXTREMITIES: [x]no CCE  [x]Pulse [x] LUE in sling, [x] Positive 
bruit/thrill

 
Pertinent Results:
Labs POD 1: ___
WBC-8.0 RBC-3.03* Hgb-8.5* Hct-27.8* MCV-92 MCH-28.1 MCHC-30.6* 
RDW-13.7 RDWSD-45.9 Plt ___ PTT-30.6 ___
Glucose-105* UreaN-76* Creat-4.6* Na-140 K-5.2 Cl-101 HCO3-23 
AnGap-16
Calcium-8.8 Phos-4.1 Mg-2.___ y/o male with CKD stage 5, Rate controlled AFib on warfarin, 
history of failed access that now presents for creation of new 
left upper arm AV fistula in anticipation of starting 
hemodialysis when indicated.
.
Surgery was with Dr. ___ without ___ 
complication. In the PACU the patient was noted to have O2 sats 
in the low 90's, received Nebs and was improving, but then was 
having readings in the 80's, and was admitted overnight for 
observation.
He was kept on oxygen and was using the spirometer with 
improvement in Sats and was able to discharge to home.
AV fistula had a bruit and thrill at discharge, + radial pulse 
and hand was warm and intact except for baseline neuropathy.
.
Home medications were resumed and home dose warfarin resumed on 
POD 1. He will follow up with his PCP ___ manages 
his dosing.
.
He is otherwise feeling well, tolerating diet and ambulatory.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
4. CARVedilol 12.5 mg PO BID 
5. GlipiZIDE XL 2.5 mg PO DAILY 
6. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

7. Potassium Citrate 10 mEq PO BID 
8. sevelamer CARBONATE 800 mg PO TID W/MEALS 
9. Warfarin 7.5 mg PO 3X/WEEK (___) 
10. Warfarin 5 mg PO 4X/WEEK (___) 
11. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
12. calcium citrate 250 mg calcium oral TID W/MEALS 
13. Vitamin D 1000 UNIT PO DAILY 
14. Cyanocobalamin 500 mcg PO DAILY 
15. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
16. Multivitamins 2 TAB PO DAILY 
17. Pyridoxine 100 mg PO DAILY 
18. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
  

1.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
No driving if taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
Disp #*5 Tablet Refills:*0 
2.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
6.  calcium citrate 250 mg calcium oral TID W/MEALS  
7.  CARVedilol 12.5 mg PO BID  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

10.  GlipiZIDE XL 2.5 mg PO DAILY  
11.  Multivitamins 2 TAB PO DAILY  
12.  Pyridoxine 100 mg PO DAILY  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
15.  Vitamin D 1000 UNIT PO DAILY  
16.  Warfarin 7.5 mg PO 3X/WEEK (___)  
17.  Warfarin 5 mg PO 4X/WEEK (___)  
18. HELD- Potassium Citrate 10 mEq PO BID  This medication was 
held. Do not restart Potassium Citrate until discussed with Dr. 
___. K 5.2 on ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CKD Stage ___
s/p AV fistula creation
Afib on warfarin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the access clinic at ___ if you have fevers 
or chills, your left hand has increased pain, is cold, has blue 
fingers, has numbness or tingling.  This may be a medical 
emergency and you should call right away.
Please also monitor for increased incisional redness, drainage 
or bleeding, arm swelling or increased pain or the development 
of a foul odor on the dressing, at the access site or any other 
concerning symptoms.
.
You should check the left arm access daily for a thrill (buzzing 
sensation) and if this is not present, you should call the 
access clinic right away and not wait until your dialysis 
session.
.
The arm may be gently washed but do not submerge or soak the 
arm. Keep the arm elevated when you are sitting or laying down 
to help the swelling decrease. Dressings may be removed on the 
second day after your access surgery (___). The incisions 
may be left open to the air.
.
Do NOT allow any blood pressures or lab draws from the access 
arm. No tight or constrictive clothing or jewelry to the access 
arm and no lifting more than 10 pounds.
.
Continue home medications, dietary and fluid restrictions as you 
have been instructed.
.

 
Followup Instructions:
___